US08217069B2
5-Chloro-3-[2-fluoro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one
To a mixture of 2,6-dichloronicotinic acid (0.58 g) and 2-fluoro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyaniline hydrochloride (0.7 g) in 1-methyl-2-pyrrolidone (4 mL) was added sodium hydride (55%, 0.35 g), and the mixture was stirred at 120° C. overnight. The reaction mixture was poured into 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residual solids were suspended in a mixed solvent (n-hexane/ethyl acetate=2/1), and collected by filtration. The collected solids were washed with the same solvent, and dried under reduced pressure. To the obtained solids were added 1,4-dioxane (5 mL), triethylamine (0.31 mL) and diphenylphosphoryl azide (0.24 mL), and the mixture was stirred at room temperature for 1 hour, and then heated at reflux for 4 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1−1/3) to give the title compound (0.16 g).

reactant | 2,6-dichloronicotinic acid | 0.58 g | ClC1=C(C(=O)O)C=CC(=N1)Cl | C6H3Cl2NO2
reactant | 2-fluoro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyaniline hydrochloride | 0.7 g | Cl.FC1=C(N)C=C(C(=C1)OC)OCC1=C(C(=CC=C1OC)F)F
reactant | sodium hydride | 0.35 g | [H-].[Na+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
reactant | 1-methyl-2-pyrrolidone | 4 mL | CN1C(CCC1)=O | C5H9NO
product | 5-Chloro-3-[2-fluoro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 0.16 g | ClC1=CC=C2C(=N1)N(C(N2)=O)C2=C(C=C(C(=C2)OCC2=C(C(=CC=C2OC)F)F)OC)F | C21H15ClF3N3O4
